US07727988B2
5-(2-methyl-3-pyridinyl)-1-(4-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}butyl)-2,4(1H,3H)-pyrimidinedione dihydrochloride (E29)
5-(2-methyl-3-pyridinyl)-1-(4-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}butyl)-2,4(1H,3H)-pyrimidinedione was treated with 4N HCl in dioxane (2 eq), to give the title compound as a white powder. (68 mg, 36% yield)

reactant | 5-(2-methyl-3-pyridinyl)-1-(4-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}butyl)-2,4(1H,3H)-pyrimidinedione | CC1=NC=CC=C1C=1C(NC(N(C1)CCCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O)=O | C26H27F3N4O2
reactant | HCl | 4N | Cl | ClH
reactant | dioxane | 2 eq | O1CCOCC1 | C4H8O2
product | 5-(2-methyl-3-pyridinyl)-1-(4-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}butyl)-2,4(1H,3H)-pyrimidinedione dihydrochloride | 36% yield | Cl.Cl.CC1=NC=CC=C1C=1C(NC(N(C1)CCCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O)=O | InChI=1S/C26H27F3N4O2.2ClH/c1-17-21(5-4-10-30-17)22-15-33(24(35)31-23(22)34)12-3-2-11-32-14-20-13-25(20,16-32)18-6-8-19(9-7-18)26(27,28)29;;/h4-10,15,20H,2-3,11-14,16H2,1H3,(H,31,34,35);2*1H/t20-,25+;;/m0../s1
